US07498337B2
tert-butyl {[5-(4-cyano-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
To a solution (5 mL) of tert-butyl {[5-(4-bromo-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (470 mg) in N,N-dimethylformamide were added zinc cyanide (215 mg) and tetrakis(triphenylphosphine)palladium (212 mg) and the mixture was sufficiently degassed. The mixture was stirred with heating at 120° C. for 18 hr and cooled to room temperature. Water and ethyl acetate were added and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure and the residue was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→2:1) to give the title compound as a pale-yellow oil (yield 297 mg, 71%).

reactant | tert-butyl {[5-(4-bromo-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 5 mL, 470 mg | BrC=1C(=CSC1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C20H22BrN3O4S2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 215 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 212 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl {[5-(4-cyano-3-thienyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 297 mg, 71% | C(#N)C=1C(=CSC1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C | C21H22N4O4S2
